US08603681B2
2-Methyl-2-octadecyl-[4H-1,3,2-benzodioxasilin]
In a 1 l four-neck flask with stirrer, reflux condenser and dropping funnel, 31.7 g of salicyl alcohol (0.25 mol) and 66.7 g (0.52 mol) of dried N-ethyldiisopropylamine were suspended under argon in 100 ml of anhydrous toluene at 22° C. 110 g of Octadecylmethyldichlorosilane (95%; 0.25 mol) was melted and dissolved in 100 ml of dry toluene. This solution was added dropwise at 23 to 27° C. within 55 minutes, in the course of which an exothermic reaction was observed. Cooling with an ice bath held the reaction temperature at a maximum of 27° C. After the addition had ended, the temperature was raised to 40° C., and exothermicity (without heating to 45° C.) was again observed. The reaction vessel was then cooled to 40° C. with cold water, and it was stirred at this temperature for one hour and then cooled to RT. The suspension was left to stand at RT overnight. The precipitate (hydrochloride) was filtered off with suction through a P40 glass frit under N2, and the filtrate was concentrated by rotary evaporation at 120° C./5 mbar. Yield 80.9 g (77% of theory).

reactant | salicyl alcohol | 0.25 mol, 31.7 g | C(C=1C(O)=CC=CC1)O | C7H8O2
reactant | N-ethyldiisopropylamine | 0.52 mol, 66.7 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | Octadecylmethyldichlorosilane | 0.25 mol, 110 g | C(CCCCCCCCCCCCCCCCC)[Si](Cl)(Cl)C | C19H40Cl2Si
reactant | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Methyl-2-octadecyl-[4H-1,3,2-benzodioxasilin] | CC(C[SiH]1OC2=C(CO1)C=CC=C2)CCCCCCCCCCCCCCCC | C26H46O2Si
